2184-08-04 11:02:00 Physician Attending Progress Note
Chief Complaint: Comfortable w/o pain or SOB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2184-8-3**] 12:00 PM
 ARTERIAL LINE - START [**2184-8-3**] 12:00 PM
 MULTI LUMEN - START [**2184-8-3**] 12:00 PM
 INVASIVE VENTILATION - STOP [**2184-8-3**] 02:47 PM
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Azithromycin
   Rash; Shortness
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Agranulocytosis
   Last dose of Antibiotics:
   Metronidazole - [**2184-8-4**] 05:08 AM
   Vancomycin - [**2184-8-4**] 05:30 AM
   Acyclovir - [**2184-8-4**] 07:00 AM
   Cefipime - [**2184-8-4**] 09:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2184-8-3**] 02:00 PM
   Metoprolol - [**2184-8-3**] 05:00 PM
   Heparin Sodium (Prophylaxis) - [**2184-8-4**] 12:12 AM
   Furosemide (Lasix) - [**2184-8-4**] 03:44 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: No(t) Dyspnea
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2184-8-4**] 11:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37
C (98.6
   HR: 99 (78 - 114) bpm
   BP: 152/98(121) {112/66(81) - 152/98(121)} mmHg
   RR: 24 (17 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 63.4 kg (admission): 68 kg
   Height: 69 Inch
   CVP: 10 (10 - 351)mmHg
   Total In:
                                                                  2,630 mL
                                                                  1,797 mL
   PO:
   TF:
                                                                    420 mL
                                                                    650 mL
   IVF:
                                                                    985 mL
                                                                  1,087 mL
   Blood products:
   Total out:
                                                                  4,810 mL
                                                                  2,160 mL
   Urine:
                                                                  4,810 mL
                                                                  2,160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,180 mL
                                                                   -363 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: Standby
   FiO2: 70%
   SpO2: 100%
   ABG: 7.49/39/208/28/6
   PaO2 / FiO2: 297
   Physical Examination
   General Appearance: wasted
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : few basilar, No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Tone: Normal,
   diffusely weak
   Labs / Radiology
   9.6 g/dL
   283 K/uL
   146 mg/dL
   0.5 mg/dL
   28 mEq/L
   4.7 mEq/L
   6 mg/dL
   114 mEq/L
   147 mEq/L
   29.0 %
   3.9 K/uL
        [image002.jpg]
                             [**2184-8-3**]  02:38 AM
                             [**2184-8-3**]  04:25 AM
                             [**2184-8-3**]  05:49 AM
                             [**2184-8-3**]  06:07 AM
                             [**2184-8-3**]  11:18 AM
                             [**2184-8-3**]  10:10 PM
                             [**2184-8-4**]  12:40 AM
                             [**2184-8-4**]  03:16 AM
                             [**2184-8-4**]  04:33 AM
                             [**2184-8-4**]  04:48 AM
   WBC
   4.2
   3.9
   Hct
   29.5
   29.0
   Plt
   276
   283
   Cr
   0.4
   0.5
   TCO2
   26
   27
   26
   28
   29
   30
   29
   31
   Glucose
   169
   146
   Other labs: PT / PTT / INR:12.1/56.5/1.0, ALT / AST:27/36, Alk Phos / T
   Bili:49/0.3, Amylase / Lipase:68/74, D-dimer:568 ng/mL, Fibrinogen:408
   mg/dL, Lactic Acid:1.5 mmol/L, Albumin:3.3 g/dL, LDH:531 IU/L,
   Ca++:10.5 mg/dL, Mg++:2.3 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
 HEART FAILURE (CHF), SYSTOLIC, ACUTE
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 HYPOPHOSPHATEMIA (LOW PHOSPHATE)
   HIV
   FEVER
   ALTERED MENTAL STATUS
   He continues to improve. Now alert when stimulated but still very
   somnolent.  We still have no good explanation for his respiratory
   failure.  LDH has trended down but remains elevated above baseline and
   CXR still has basilar infiltrates, however BAL has been remarkably
   benign.  Peeling back abx, continuing HAART, diuresing given low EF on
   echo - needs long term beta blocker and ACE.  Have asked Neuro to weigh
   in on his neurologic recovery.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2184-8-3**] 05:00 PM 60 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2184-8-3**] 12:00 PM
   Multi Lumen - [**2184-8-3**] 12:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2184-08-04 16:17:00 Physician Resident Progress Note
Chief Complaint: Respiratory failure, AIDS, and AMS
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2184-8-3**] 02:47 PM
 INCREASED O2 REQUIREMENT-given 10mg IV lasix X2
 CALLED OUT
   History obtained from Family / Friend
   [**Name (NI) **] unable to provide history: somnolent
   Allergies:
   Azithromycin
   Rash; Shortness
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Agranulocytosis
   Last dose of Antibiotics:
   Vancomycin - [**2184-8-4**] 05:30 AM
   Cefipime - [**2184-8-4**] 09:00 AM
   Metronidazole - [**2184-8-4**] 01:00 PM
   Acyclovir - [**2184-8-4**] 03:00 PM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2184-8-3**] 05:00 PM
   Heparin Sodium (Prophylaxis) - [**2184-8-4**] 12:12 AM
   Furosemide (Lasix) - [**2184-8-4**] 03:44 AM
   Pantoprazole (Protonix) - [**2184-8-4**] 03:00 PM
   Other medications:
   HAART
   Atovaquone 750mg PO BID
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Weight loss
   Eyes: Conjunctival edema
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: Tube feeds
   Respiratory: No(t) Cough, No(t) Tachypnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Diarrhea
   Genitourinary: Foley
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Heme / Lymph: Anemia
   Neurologic: unable to assess
   Psychiatric / Sleep: Daytime somnolence
   Allergy / Immunology: Immunocompromised
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2184-8-4**] 03:51 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 81 (78 - 107) bpm
   BP: 137/84(104) {112/66(81) - 152/98(121)} mmHg
   RR: 21 (17 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 63.4 kg (admission): 68 kg
   Height: 69 Inch
    CVP: 10 (10 - 351)mmHg
   Total In:
                                                                  2,630 mL
                                                                  2,373 mL
   PO:
   TF:
                                                                    420 mL
                                                                    925 mL
   IVF:
                                                                    985 mL
                                                                  1,388 mL
   Blood products:
   Total out:
                                                                  4,810 mL
                                                                  3,100 mL
   Urine:
                                                                  4,810 mL
                                                                  3,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,180 mL
                                                                   -727 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 100%
   ABG: 7.49/39/208/28/6
   PaO2 / FiO2: 297
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Cardiovascular: (PMI Normal), (S1: Normal, No(t) Absent), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   BS b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   283 K/uL
   9.6 g/dL
   146 mg/dL
   0.5 mg/dL
   28 mEq/L
   4.7 mEq/L
   6 mg/dL
   114 mEq/L
   147 mEq/L
   29.0 %
   3.9 K/uL
        [image002.jpg]
                             [**2184-8-3**]  02:38 AM
                             [**2184-8-3**]  04:25 AM
                             [**2184-8-3**]  05:49 AM
                             [**2184-8-3**]  06:07 AM
                             [**2184-8-3**]  11:18 AM
                             [**2184-8-3**]  10:10 PM
                             [**2184-8-4**]  12:40 AM
                             [**2184-8-4**]  03:16 AM
                             [**2184-8-4**]  04:33 AM
                             [**2184-8-4**]  04:48 AM
   WBC
   4.2
   3.9
   Hct
   29.5
   29.0
   Plt
   276
   283
   Cr
   0.4
   0.5
   TCO2
   26
   27
   26
   28
   29
   30
   29
   31
   Glucose
   169
   146
   Other labs: PT / PTT / INR:12.1/56.5/1.0, ALT / AST:27/36, Alk Phos / T
   Bili:49/0.3, Amylase / Lipase:68/74, D-dimer:568 ng/mL, Fibrinogen:408
   mg/dL, Lactic Acid:1.5 mmol/L, Albumin:3.3 g/dL, LDH:531 IU/L,
   Ca++:10.5 mg/dL, Mg++:2.3 mg/dL, PO4:20.0 mg/dL
   Imaging:  CXR
   Portable AP chest radiograph was compared to prior study obtained on
   [**2184-8-3**].
   The patient was extubated in the meantime interval. The NG tube tip is
   in the
   stomach. The right internal jugular line tip is in mid SVC. The
   cardiomediastinal silhouette is stable, and the increase in the cardiac
   contour is most likely related to low lung volumes and increased venous
   return
   due to termination of mechanical intubation. The perihilar opacities
   are
   unchanged, mostly involving the lower lobes and are consistent with a
   combination of known PCP infection and atelectasis. There is no
   appreciable
   pleural effusion or pneumothorax.
   Microbiology: Cdiff negative X3, ruled out
   [**8-3**] Legionella negative
   Assessment and Plan
   A/P: 23 yo male with HIV/AIDS (CD4 count of 2) with recent workup for
   confusion thought to have HIV encephalopathy now with worsening mental
   status, fever and tachypnea transferred to MICU for further evaluation.
   .
   #[**Name (NI) 1062**] Pt was tachypnic on floor and given MS changes unclear if
   could protect airway and adequately ventilate; thus pt intubated on
   arrival to MICU.  Etiology of tachypnea unclear but possible related to
   infectious process (with elevated LDH off baseline)/PCP vs CAP vs
   aspiration pna.  Improved on current Abx regimen.
   -successful extubation yesterday, off drips
   -Bronch [**7-30**] showed 3+ PMNs, no microorganisms-no PCP
   [**Name Initial (PRE) 1063**] 25%
   -continue diuresis with lasix
   -need to discuss prognosis w family-family meeting today
   .
   #Mental Status change - Patient with HIV/AIDS (CD4 count of 2) thought
   to have HIV encephalopathy, but at baseline A&Ox3 and admitted to ICU
   with acute worsening in mental status. The differential includes
   meningitis (bacterial, cryptococcus, fungal, viral), progression of his
   HIV encephalopathy, encephalitis (HSV). The LP from the ED did not show
   any abnormalities, however as he is extremely immunosuppressed this is
   not inconsistent with meningitis. Head CT in the ED showed no bleed.
   Pt beginning to be more responsive and follows commands.  Can interact
   with nurses and family just not talking yet.
   - Will empirically cover the patient with acyclovir, cefepime,
   ampicillin, and vancomycin for possible meningitis or pneumonia and
   follow up CSF cx's.
   - F/u blood cx's, CSF tests (PCR for varicella, EBV, CMV, VDRL, PML),
   serum crypto, urine histo, CMV serologies, fungal cx's -all negative
   thus far
   - MRI [**7-31**]: Interval progression of abnormal signal in the bilateral
   caudate, putamen, left thalamus, and central pons without restricted
   diffusion or enhancement. Differential diagnostic considerations would
   include toxic metabolic etiologies, vasculitis, or extrapontine
   myelinolysis. Given the lack of restricted diffusion, possibility of
   hypoxia is felt to be less likely.
   - Neuro following- need recs
   -initiating of  HAART therapy  seems to be treating this inflammatory
   process
   .
   #Anemia-Hct29 down from baseline of 36.8, off his baseline, stable now
   with unclear etiology either GI source vs medication interaction/side
   effect
   -consider GI source w NG aspirate guaice positive-could very well be
   erosive esophagitis considering his h/ thrush
   -f/u peripheral smear, DIC neg for hemolysis, f/u iron studies workup
   -also lamivudine, part of HAART regimen can cause acute drop in hct,
   will discuss with ID and pharmacy.
   .
   #ID/[**Name (NI) 1064**] Pt has a poorly controlled HIV infection with low CD4 count
   and thus susceptible to many oportunistic infections; he may have
   encephalitis with opportunistic infection; LP most c/w viral infection
   but need to r/o other sources. CT abdomen without source of infection.
   CXR with ? patchy infiltrates and pt does have elevated LSH.
   Differential includes  PCP pneumonia, CMV, EBV, HSV, VZV, JCV, Histo,
   Cryptococcus.
   -CVP at goal of 10 after fluid resuscitation
   -C. diff, cryptococcal Ag negative
   -LP cultures pending; including HSV, CMV, VDRL, Varicella, EBV, JCV,
   Crypto
   -Blood cultures pending, CSF cultures pending
   -Continue Cefepime (for pseumonas coverage), vanco, flagyl,
   acyclovir-for treatment of PNA
   -D/c Bactrim, d/c Solumedrol IV with PCP  ruled out, restart
   Atorvoquone prophylaxis
   -Start HAART regimen as below
   -Per ID will check West Nile virus adn serum CMV PCR, urine histoplasma
   Ag
   -Consider peripheral blood smear
   - ID recommends BM biopsy with fungal/viral cx??
   .
   #HIV-Pt has not been treated with HAART therapy in past [**1-31**] depression
   and poor compliance; given severity of infection started on HAART in
   hospital
   -Begin darunavir, raltegravir, tenofovir, ritonavir and lamivudine per
   ID recs
   .
   # Recent C.diff infection - Will continue flagyl and recheck C.diff
   toxin
   -[**3-1**] C. Diff  neg
d/c precautions
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2184-8-3**] 05:00 PM 60 mL/hour
   Comments: Ca/Mg/K sliding scale
   Glycemic Control:
   Lines:
   Arterial Line - [**2184-8-3**] 12:00 PM
   Multi Lumen - [**2184-8-3**] 12:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Bowel regimen)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:Transfer to floor